### PR TITLE
A new usage rule for natrec

### PR DESCRIPTION
**Pull request by oskeri**
Also includes some infrastructure changes regarding how the usage rule for natrec is chosen. This decision is now moved to `Usage-restrictions` from `Modality-variant`. 

Consequently, `Modality-variant` is now only used to determine whether mode `𝟘ᵐ` is allowed or not. Perhaps is would make sense to move this to `Usage-restrictions` as well at some point?

### CODE REVIEW

File: Graded/Context.agda [hunk 1]
```diff
@@ -125,3 +128,9 @@ _⊛ᶜ_▷_ :
 𝟙ᶜ : Conₘ n
 𝟙ᶜ {n = 0}    = ε
 𝟙ᶜ {n = 1+ n} = 𝟙ᶜ ∙ 𝟙
+
+Greatest-such-thatᶜ : ∀ {ℓ} → (Conₘ n → Set ℓ) → Conₘ n → Set (a ⊔ ℓ)
+Greatest-such-thatᶜ P γ = P γ × (∀ δ → P δ → δ ≤ᶜ γ)
+
+Greatest-lower-boundᶜ : Conₘ n → Sequence (Conₘ n) → Set a
```
Comment (nad) [inline Graded/Context.agda:135]: This definition is not documented.

File: Graded/Modality.agda [hunk 2]
```diff
@@ -80,6 +83,19 @@ record Semiring-with-meet : Set a where
   Least-such-that : (M → Set a) → M → Set a
   Least-such-that P p = P p × (∀ q → P q → p ≤ q)
 
+  Greatest-such-that : ∀ {ℓ} → (M → Set ℓ) → M → Set (a ⊔ ℓ)
```
Comment (nad) [inline Graded/Modality.agda:86]: This definition is not documented.

File: Tools/Function.agda [hunk 3]
```diff
@@ -299,3 +301,8 @@ Is-proposition-Dec = λ where
   _  _    {x = no x}  {y = yes y} → ⊥-elim (x y)
   fe _    {x = no x}  {y = no y}  →
     cong no (Is-proposition-Π fe λ _ → ⊥-propositional)
+
+-- Infinite sequences of elements of a given type
```
Comment (nad) [inline Tools/Function.agda:305]: I think it would make more sense to have this definition in `Tools.Nat`.

File: Graded/Modality/Instances/Nat-plus-infinity.agda [hunk 4]
```diff
@@ -996,6 +1032,46 @@ opaque
       lemma ∞ ⌞ 1+ s ⌟ = refl
       lemma z ∞ rewrite +-comm z ∞ = refl
 
+opaque
+
+  nr₃-𝟘 : ∀ r → nr₃ r ⌞ 0 ⌟ ⌞ 0 ⌟ ≡ ⌞ 0 ⌟
```
Comment (nad) [inline Graded/Modality/Instances/Nat-plus-infinity.agda:1037]: This definition is not documented.

File: Graded/Modality/Instances/Nat-plus-infinity.agda [hunk 5]
```diff
@@ -996,6 +1032,46 @@ opaque
...
+  nr₃-𝟘 ⌞ 0 ⌟ =
+    Semiring-with-meet.∧-idem ℕ⊎∞-semiring-with-meet ⌞ 0 ⌟
+  nr₃-𝟘 ⌞ 1+ 0 ⌟ = refl
+  nr₃-𝟘 ⌞ 2+ x ⌟ = refl
+  nr₃-𝟘 ∞ = refl
+
+opaque
+
+  nr₃-+ : ∀ r → nr₃ r z₁ s₁ + nr₃ r z₂ s₂ ≤ nr₃ r (z₁ + z₂) (s₁ + s₂)
```
Comment (nad) [inline Graded/Modality/Instances/Nat-plus-infinity.agda:1046]: This definition is not documented.

File: Graded/Modality/Instances/Linear-or-affine.agda [hunk 6]
```diff
@@ -1545,28 +1547,34 @@ linear-or-affine-has-star = record
...
+  -- A (not very good) nr function based on the natrec-star operator
+  -- defined above.
+
+  -- See Graded.Modality.Instances.Linear-or-affine.Bad for some
+  -- examples that illustrate in what sense this nr function is not very
+  -- good. The nr function below does not suffer from
+  -- these problems (see
+  -- Graded.Modality.Instances.Linear-or-affine.Good), but note that, at
+  -- the time of writing, this formalisation does not contain any solid
+  -- evidence showing that linear-or-affine is "correct".
```
Comment (nad) [inline Graded/Modality/Instances/Linear-or-affine.agda:1573]: Is that still true?

File: Graded/Usage/Restrictions/Natrec.agda [hunk 7]
```diff
@@ -0,0 +1,165 @@
...
+-- open import Definition.Untyped.NotParametrised
+
+-- open import Tools.Bool
+open import Tools.Empty
+-- open import Tools.Function
+-- open import Tools.Level
+open import Tools.PropositionalEquality
+open import Tools.Product
+-- open import Tools.Relation
+-- open import Tools.Sum hiding (sym)
```
Comment (nad) [inline Graded/Usage/Restrictions/Natrec.agda:25]: The commented-out code above could be removed.

File: Graded/Usage/Restrictions/Natrec.agda [hunk 8]
```diff
@@ -0,0 +1,165 @@
...
+--   Nr-not-available₂ = Natrec-mode-no-nr₂ natrec-mode
+
+--   opaque
+
+--     Nr-available-propositional :
+--       (x y : Nr-available) → x ≡ y
+--     Nr-available-propositional = lemma
+--       where
+--       lemma : (x y : Natrec-mode-has-nr nm) → x ≡ y
+--       lemma Nr Nr = refl
```
Comment (nad) [inline Graded/Usage/Restrictions/Natrec.agda:149]: More commented-out code.

File: Graded/Usage/Restrictions/Natrec.agda [hunk 9]
```diff
@@ -0,0 +1,165 @@
...
+
+
+data Natrec-mode? (nm : Natrec-mode) : Set a where
```
Comment (nad) [inline Graded/Usage/Restrictions/Natrec.agda:152]: This definition is not documented.

File: Graded/Usage/Restrictions/Natrec.agda [hunk 10]
```diff
@@ -0,0 +1,165 @@
...
+  does-have-nr :
+    ⦃ has-nr : Natrec-mode-has-nr nm ⦄ → Natrec-mode? nm
+  does-not-have-nr :
+    ⦃ no-nr : Natrec-mode-no-nr nm ⦄ → Natrec-mode? nm
+  does-not-have-nr-glb :
+    ⦃ no-nr : Natrec-mode-no-nr-glb nm ⦄ → Natrec-mode? nm
+
+opaque
+
+  natrec-mode? : ∀ nm → Natrec-mode? nm
```
Comment (nad) [inline Graded/Usage/Restrictions/Natrec.agda:162]: This definition is not documented.

File: Graded/Usage/Restrictions/Natrec.agda (hunk 9 above)
Comment (nad) [reply Graded/Usage/Restrictions/Natrec.agda:152]: What is the purpose of this definition? Could it be removed?

File: Graded/Usage/Restrictions/Instance.agda [hunk 11]
```diff
@@ -0,0 +1,33 @@
+------------------------------------------------------------------------
+-- ???
```
Comment (nad) [inline Graded/Usage/Restrictions/Instance.agda:2]: ???

File: Graded/Usage/Restrictions.agda [hunk 12]
```diff
@@ -97,6 +103,18 @@ record Usage-restrictions : Set (lsuc a) where
     erased-matches-for-K-≤ᵉᵐ :
       erased-matches-for-K 𝟙ᵐ ≤ᵉᵐ erased-matches-for-K 𝟘ᵐ[ ok ]
 
+  -- Three mutually exclusive types which corresponding to each of the
+  -- three poossibilities for natrec-mode
```
Comment (nad) [inline Graded/Usage/Restrictions.agda:107]: Spelling.

File: Graded/Usage/Restrictions/Instance.agda [hunk 13]
```diff
@@ -0,0 +1,33 @@
...
+
+  Nr-available-Has-nr :
+    ⦃ has-nr : Nr-available ⦄ →
+    Has-nr M semiring-with-meet
+  Nr-available-Has-nr ⦃ has-nr ⦄ =
+    Natrec-mode-Has-nr has-nr
+
+instance
+
+  Nr-not-available₂-Supports-factoring :
```
Comment (nad) [inline Graded/Usage/Restrictions/Instance.agda:29]: What does the 2 stand for?

File: Graded/Restrictions.agda [hunk 14]
```diff
@@ -561,12 +570,12 @@ opaque
 
   -- If grade equality is decidable and the modality comes with a
   -- dedicated nr function, then UD.Assumptions holds for
-  -- no-usage-restrictions b false.
+  -- no-usage-restrictions Nr b false.
```
Comment (nad) [inline Graded/Restrictions.agda:573]: The code in the comment is underspecified (note that `Nr` takes an instance argument).

File: Graded/Modality/Instances/Affine/Bad.agda [hunk 15]
```diff
@@ -15,28 +14,38 @@ module Graded.Modality.Instances.Affine.Bad
...
+open import Graded.Usage.Restrictions.Natrec affineModality
+
+private
+  module M = Modality affineModality
+
+  -- The "bad" nr function is used
+  UR′ = nr-available-UR zero-one-many-greatest-star-nr UR
+  open Usage-restrictions UR′
+  instance
+    has-nr : Has-nr M.semiring-with-meet
```
Comment (nad) [inline Graded/Modality/Instances/Affine/Bad.agda:35]: Is `has-nr` only used in the implementation of `nr-avail`? In that case it might make sense to inline `has-nr` (and rename `nr-avail`). However, I tried to do this, and for some reason Agda then failed to instantiate some instance arguments below, even though those arguments could be instantiated using `nr-avail`. I think this should be investigated.

Similar comments apply to other modules below as well.

File: Graded/Modality/Morphism/Usage-restrictions/Examples.agda [hunk 16]
```diff
@@ -109,15 +132,31 @@ opaque
     in
     (T M₁.𝟘ᵐ-allowed → T M₂.𝟘ᵐ-allowed) →
     (T M₂.𝟘ᵐ-allowed ⊎ M₂.Trivial → T M₁.𝟘ᵐ-allowed ⊎ M₁.Trivial) →
+    nm₁ ≈ⁿᵐ nm₂ →
+    (⦃ has-nr₁ : Natrec-mode-has-nr _ nm₁ ⦄ →
+     ⦃ has-nr₂ : Natrec-mode-has-nr _ nm₂ ⦄ →
+     Is-nr-reflecting-morphism 𝕄₁ 𝕄₂
+       ⦃ Natrec-mode-Has-nr _ has-nr₁ ⦄
+       ⦃ Natrec-mode-Has-nr _ has-nr₂ ⦄ tr) →
```
Comment (nad) [inline Graded/Modality/Morphism/Usage-restrictions/Examples.agda:140]: I suggest that you give instance arguments by name.

File: Graded/Modality/Morphism/Usage-restrictions/Examples.agda [hunk 17]
```diff
@@ -427,7 +481,7 @@ opaque
 
   -- If the functions tr and tr-Σ preserve certain usage restrictions,
   -- then they also do this for certain usage restrictions obtained
-  -- using not-all-erased-matches-JK.
+  -- using not-all-erased-matches-JK given certain assumptions.
```
Comment (nad) [inline Graded/Modality/Morphism/Usage-restrictions/Examples.agda:484]: What assumptions?

File: Graded/Heap/Soundness.agda [hunk 18]
```diff
@@ -4,20 +4,24 @@
...
+  (UR : Usage-restrictions 𝕄)
   (TR : Type-restrictions 𝕄)
-  (open Graded.Heap.Bisimilarity UR TR)
-  (open Type-restrictions TR)
+  (open Usage-restrictions UR)
+  (factoring-nr :
+    ⦃ has-nr : Nr-available ⦄ →
+    Is-factoring-nr M (Natrec-mode-Has-nr 𝕄 has-nr))
+  (open Graded.Heap.Bisimilarity UR TR factoring-nr)
   (As : Assumptions)
```
Comment (nad) [inline Graded/Heap/Soundness.agda:21]: Here you have one assumption that says that if the rule with an nr function is used, then that nr function is factoring, then you have another assumption *hidden inside `Assumptions`* that says that the `Nr-not-available` rule is not used. In the interests of readability I think this telescope should be refactored. Perhaps you could have a positive assumption inside `Assumptions` that states that either `Nr-not-available-GLB` holds, or `Nr-available` holds for a factoring nr function.

The same comment applies to `Graded.Heap.Termination` as well.

File: Graded/Usage/Decidable/Assumptions.agda [hunk 19]
```diff
@@ -49,7 +48,7 @@ record Assumptions : Set a where
 
     instance
       -- A dedicated nr function is assumed to exist.
-      ⦃ has-nr ⦄ : Dedicated-nr
+      ⦃ has-nr ⦄ : Nr-available
```
Comment (nad) [inline Graded/Usage/Decidable/Assumptions.agda:51]: Could decidability also be proved under something like the following assumption?
```agda
Nr-not-available-GLB ×
(∀ r p q → ∃ λ s → Greatest-lower-bound s (nrᵢ r p q))
```
And does the second part of this assumption hold for at least some of the example modalities? (I think you and I have already discussed something like this.)

**Review by nad — COMMENTED** [review]
Would it make sense to add modules like `Graded.Modality.Instances.Affine.Good` that use `No-nr-glb` instead of `Nr`?

I would like to know more about how the system with `Nr-available` compares to the one with `Nr-not-available-GLB` (and I know that you have already thought about this).

I don't like having nr functions in the usage restrictions: other modality functions are part of the modality, not a later addition. However, if my question about decidability can be answered sufficiently affirmatively, then one could perhaps see the system with `Nr-not-available-GLB` as the "correct" one, and the system with `Nr-available` as an experimental extension.

File: Graded/Usage/Restrictions/Natrec.agda (hunk 9 above)
Comment (oskeri) [reply Graded/Usage/Restrictions/Natrec.agda:152]: It has essentially the same purpose as `Dedicated-nr?` has/had. It allows case distinction on a given `Natrec-mode` in a way that brings corresponding instance arguments into scope. It is used, for instance, in `Graded.Usage.Properties.natrec-nr-or-no-nrₘ` and a few other places.

It would be possible to split on the `Natrec-mode` directly instead but then one would have to deal with the instance arguments manually.

File: Graded/Usage.agda [hunk 20]
```diff
@@ -83,7 +86,7 @@ infix 50 ⌈_⌉
 
 mutual
   ⌈_⌉ :
-    ⦃ has-nr : Has-nr semiring-with-meet ⦄ →
+    ⦃ has-nr : Nr-available ⦄ →
```
[the remark this answers is not in the document]
Comment (oskeri) [reply Graded/Usage.agda:89]: The reason I put `Nr-available` instead of `Has-nr` is that even though you could define this function given an nr function, it wouldn't say anything meaningful unless the usage rule for natrec using that nr function is used.

As you commented below, it should be possible to have inference also without nr functions (given some assumptions about GLB:s) so I will be making some changes here anyway.

File: Graded/Usage.agda [hunk 21]
```diff
@@ -353,6 +354,41 @@ data _▸[_]_ {n : Nat} : (γ : Conₘ n) → Mode → Term n → Set a where
...
+
+  natrec-no-nr-glbₘ :
+           ∀ {n s x} ⦃ no-nr : Nr-not-available-GLB ⦄
+           → γ ▸[ m ] z
+           → δ ∙ ⌜ m ⌝ · p ∙ ⌜ m ⌝ · r ▸[ m ] s
+           → η ▸[ m ] n
+           → θ ∙ ⌜ 𝟘ᵐ? ⌝ · q ▸[ 𝟘ᵐ? ] A
+           → Greatest-lower-bound x (nrᵢ r 𝟙 p)
+           → Greatest-lower-boundᶜ χ (nrᵢᶜ r γ δ)
+           → x ·ᶜ η +ᶜ χ ▸[ m ] natrec p q r A z s n
```
[the remark this answers is not in the document]
Comment (oskeri) [reply Graded/Usage.agda:390]: I don't see how to do this. That would be a more permissive rule.

[the remark this answers is not in the document]
Comment (nad) [reply Graded/Usage.agda:390]: My idea was to combine this rule with `sub`: any lower bound is bounded by a greatest lower bound. I guess that works if a greatest lower bound can always be computed. Did you investigate whether GLBs can be computed for the example modalities?

File: Graded/Modality/Morphism/Examples.agda [hunk 22]
```diff
@@ -1244,6744 +2120,6548 @@ zero-one-many⇨erasure {v₂ = v₂@record{}} {𝟙≤𝟘 = 𝟙≤𝟘} refl
...
+      𝟘 𝟘 𝟘 𝟙 ω → refl
+      𝟘 𝟘 𝟘 ω 𝟘 → refl
+      𝟘 𝟘 𝟘 ω 𝟙 → refl
+      𝟘 𝟘 𝟘 ω ω → refl
+      𝟘 𝟘 𝟙 𝟘 𝟘 → refl
+      𝟘 𝟘 𝟙 𝟘 𝟙 → refl
+      𝟘 𝟘 𝟙 𝟘 ω → refl
+      𝟘 𝟘 𝟙 𝟙 𝟘 → refl
+      𝟘 𝟘 𝟙 𝟙 𝟙 → refl
+
```
[the remark this answers is not in the document]
Comment (oskeri) [reply Graded/Modality/Morphism/Examples.agda:5890]: For most morphisms, I did not attempt to prove whether they are `Is-no-nr-glb-reflecting-morphism`. This as well as figuring out whether `Is-no-nr-glb-reflecting-morphism` is defined "correctly/suitably" is left as future work (the current definition is more or less exactly what seems to be needed).

[the remark this answers is not in the document]
Comment (oskeri) [reply Graded/Modality/Morphism/Examples.agda]: Since these are not order preserving morphisms I didn't think proving whether they are `Is-no-nr-glb-reflecting-morphism` would be particularly interesting

**Comment by oskeri** [comment]
> Would it make sense to add modules like `Graded.Modality.Instances.Affine.Good` that use `No-nr-glb` instead of `Nr`?

I have added `Graded.Modality.Instances.Affine.Good.Greatest-lower-bound` and similar for linearity and linear or affine.

> I would like to know more about how the system with `Nr-available` compares to the one with `Nr-not-available-GLB` (and I know that you have already thought about this).

There is probably more that can be said about this but I have added some results in `Graded.Modality.Properties.Natrec`

>  if my question about decidability can be answered sufficiently affirmatively

Usage inference/checking is indeed decidable under the assumption you suggested.
